US04044141
Analogously to Example 1 heating a solution of 75 mmols of 3'-nitrobenzylideneacetoacetic acid 2-methoxyethyl ester and 75 mmols of β-aminocrotonic acid benzyl ester in 120 ml of ethanol gave 2,6-dimethyl-3-(2-methoxyethyloxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid benzyl ester of melting point 152° C (from ethanol).

reactant | 2,6-dimethyl-3-(2-methoxyethyloxy)-carbonyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1C(C(=C(NC1C)C)OCCOC)C1C(C(=CC=C1)[N+](=O)[O-])=C=O | C25H26N2O7
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | β-aminocrotonic acid benzyl ester | 75 mmols, Yield: 79% | C(C1=CC=CC=C1)OC(\C=C(\C)/N)=O | C11H13NO2
